US06703392B2
2-[1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-phenyl-ethyl)-acetamide:
prepared by reaction of 1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-phenyl-ethylamine

reactant | 1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC1=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=CC(=C1OC)OC | C21H27NO5
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-phenyl-ethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | 2-[1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-phenyl-ethyl)-acetamide | COC1=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCCC2=CC=CC=C2)C=CC(=C1OC)OC | C31H38N2O6
